US04367238
A mixture of 8-(o-tolyloxy)chroman-2-one (5.4 g) and potassium hydroxide (2 g) in methanol (50 ml) was refluxed under heating for 30 minutes. After cooling, the reaction mixture was evaporated, and the oily residue was dissolved in water, washed with diethyl ether, acidified with conc. hydrochloric acid and then extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and evaporated. The residue was recrystallized twice from a mixture of ethyl acetate and n-hexane to give 3-[2-hydroxy-3-(o-tolyloxy)phenyl]propionic acid (1.0 g). mp 106°-107° C.

reactant | 8-(o-tolyloxy)chroman-2-one | 5.4 g | C1(=C(C=CC=C1)OC=1C=CC=C2CCC(OC12)=O)C | C16H14O3
reactant | potassium hydroxide | 2 g | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 3-[2-hydroxy-3-(o-tolyloxy)phenyl]propionic acid | 1.0 g | OC1=C(C=CC=C1OC1=C(C=CC=C1)C)CCC(=O)O | C16H16O4
